US06489351B1
2-Ethyl-4,5-dihydro-8-methylthiothieno[3,4-e]benzothiazole-6-carboxylic acid (0.47 g) was suspended in tetrahydrofuran (15 ml); oxalyl chloride (0.29 g) and then N,N-dimethylformamide (6 l) were added. After this mixture was stirred at room temperature for 2 hours, it was concentrated under reduced pressure. The residue was suspended in tetrahydrofuran (8 ml); this suspension was added to a solution of diethyl 4-aminobenzylphosphonate (0.40 g), triethylamine (0.17 g) and tetrahydrofuran (15 ml) at room temperature. After the reaction mixture was stirred at room temperature for 1 hour, it was poured over water (150 ml) and extracted with ethyl acetate-tetrahydrofuran (3:1, v/v). The organic layer was washed with 1 N hydrochloric acid, water, a saturated aqueous solution of sodium hydrogen carbonate and water in that order, and dried (MgSO4), after which the solvent was distilled off to yield N-[4-]diethoxyphosphorylmethyl)phenyl]-2-ethyl-4,5-dihydro-8-methylthiothieno[3,4-e]benzothiazole-6-carboxamide (0.69 g, 85%), which was then recrystallized from ethanol-hexane. Yellow needles. Melting point 179-180° C.

reactant | 2-Ethyl-4,5-dihydro-8-methylthiothieno[3,4-e]benzothiazole-6-carboxylic acid | 0.47 g | C(C)C=1SC2=C(N1)C=1C(CC2)=C(SC1SC)C(=O)O | C13H13NO2S3
reactant | oxalyl chloride | 0.29 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | N,N-dimethylformamide | 6 l | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
product | 2-ethyl-4,5-dihydro-8-methylthiothieno[3,4-e]benzothiazole-6-carboxamide | 0.69 g, 85% | C(C)C=1SC2=C(N1)C=1C(CC2)=C(SC1SC)C(=O)N | C13H14N2OS3
